* Top-level simulation: PHASED_ARRAY_77G_TOP
* Verify VCO oscillation at 77 GHz

.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ

* === TOP-LEVEL SUBCIRCUIT (ngspice-compatible) ===
.subckt PHASED_ARRAY_77G_TOP G1 VCC G2 G2_1

* VCO Tank (inductors on TopMetal2 - not extracted by LVS)
L1 VCC OUTP 27p
L2 VCC OUTN 27p
* VCO Cross-Coupled Pair (m=2 each)
XQ49 OUTP OUTN VCO_TAIL 0 npn13G2l m=2 Nx=1 selft=0
XQ50 OUTN OUTP VCO_TAIL 0 npn13G2l m=2 Nx=1 selft=0
R81 VCO_DECAP VCO_TAIL 50
C85 VCC VCO_DECAP 48.86p
CVAR1 OUTP G2 15f
CVAR2 OUTN G2_1 15f

* TXPA Differential Cascode (m=8 each)
XQ1 TXP_MID OUTP TX_TAIL 0 npn13G2l m=8 Nx=1 selft=0
XQ2 TXN_MID OUTN TX_TAIL 0 npn13G2l m=8 Nx=1 selft=0
XQ25 ANT_TX VCB TXP_MID 0 npn13G2l m=8 Nx=1 selft=0
XQ26 ANT_TX VCB TXN_MID 0 npn13G2l m=8 Nx=1 selft=0

* LNA Differential Cascode (m=4 each)
XQ45 LNA_MIDP LNA_VCB LNA_TAIL 0 npn13G2l m=4 Nx=1 selft=0
XQ46 LNA_MIDN LNA_VCB2 LNA_TAIL 0 npn13G2l m=4 Nx=1 selft=0
XQ61 RF_P LNA_INP LNA_MIDP 0 npn13G2l m=4 Nx=1 selft=0
XQ62 RF_N LNA_INP LNA_MIDN 0 npn13G2l m=4 Nx=1 selft=0

* Mixer Gilbert Cell
XQ41 MIX_MIDP RF_P MIX_TAIL 0 npn13G2l m=4 Nx=1 selft=0
XQ42 MIX_MIDN RF_N MIX_TAIL 0 npn13G2l m=4 Nx=1 selft=0
XQ65 IFP OUTP MIX_MIDP 0 npn13G2l m=2 Nx=1 selft=0
XQ66 IFN OUTN MIX_MIDP 0 npn13G2l m=2 Nx=1 selft=0
XQ67 IFN OUTN MIX_MIDN 0 npn13G2l m=2 Nx=1 selft=0
XQ68 IFP OUTP MIX_MIDN 0 npn13G2l m=2 Nx=1 selft=0

* ILFD Injection-Locked Frequency Divider
XQ11 ILFD_MID OUTP ILFD_TAIL 0 npn13G2l m=2 Nx=1 selft=0
XQ12 ILFD_MID OUTN ILFD_TAIL 0 npn13G2l m=2 Nx=1 selft=0
XQ21 DIV_P DIV_N ILFD_MID 0 npn13G2l m=2 Nx=1 selft=0
XQ22 DIV_N DIV_P ILFD_MID 0 npn13G2l m=2 Nx=1 selft=0

* Bias resistors and decoupling caps removed for simulation
* (floating nodes cause singular matrix - biased externally via current sources)

.ends PHASED_ARRAY_77G_TOP

* === TESTBENCH ===
XDUT G1 VCC G2 G2_1 PHASED_ARRAY_77G_TOP

* Power supply
VVCC VCC 0 DC 3.3
Vsub sub 0 DC 0

* Varicap tuning
VTUNE1 G2 0 DC 1.5
VTUNE2 G2_1 0 DC 1.5
VG1 G1 0 DC 1.5

* Bias: VCB for TXPA cascode (set above Vbe threshold)
VVCB XDUT.VCB 0 DC 2.0
* LNA cascode bias
VLNA_VCB XDUT.LNA_VCB 0 DC 2.0
VLNA_VCB2 XDUT.LNA_VCB2 0 DC 2.0
* LNA input bias
VLNA_INP XDUT.LNA_INP 0 DC 0.9

* Tail current sources
ITAIL_VCO XDUT.VCO_TAIL 0 DC 5m
ITAIL_TX XDUT.TX_TAIL 0 DC 10m
ITAIL_LNA XDUT.LNA_TAIL 0 DC 4m
ITAIL_MIX XDUT.MIX_TAIL 0 DC 4m
ITAIL_ILFD XDUT.ILFD_TAIL 0 DC 2m

* Load resistors on floating output nodes
RL_ANT XDUT.ANT_TX VCC 50
RL_IFP XDUT.IFP VCC 200
RL_IFN XDUT.IFN VCC 200
RL_RFP XDUT.RF_P VCC 200
RL_RFN XDUT.RF_N VCC 200
RL_DIVP XDUT.DIV_P VCC 500
RL_DIVN XDUT.DIV_N VCC 500

* Simulation options (from working VCO sim)
.options gmin=1e-10 reltol=5e-3 abstol=1e-10 vntol=1e-4
.options itl1=1000 itl2=200 itl4=500
.options method=gear maxord=3
.options noopiter

.tran 0.2p 3n

.control
run
meas tran t1 WHEN v(XDUT.OUTN)=2.5 RISE=5
meas tran t2 WHEN v(XDUT.OUTN)=2.5 RISE=6
if (t2-t1 > 0)
  let freq_ghz = 1.0 / (t2 - t1) / 1e9
  echo "=== RESULTS ==="
  echo "VCO Frequency = $&freq_ghz GHz"
end
meas tran voutp_max MAX v(VCC) from=2n to=3n
meas tran voutp_min MIN v(VCC) from=2n to=3n
meas tran voutn_max MAX v(XDUT.OUTN) from=2n to=3n
meas tran voutn_min MIN v(XDUT.OUTN) from=2n to=3n
let diff_swing = (voutp_max - voutp_min) + (voutn_max - voutn_min)
echo "Differential Swing = $&diff_swing Vpp"
meas tran div_p_max MAX v(XDUT.DIV_P) from=2n to=3n
meas tran div_p_min MIN v(XDUT.DIV_P) from=2n to=3n
let div_swing = div_p_max - div_p_min
echo "ILFD DIV_P Swing = $&div_swing Vpp"
.endc

.end