* 77 GHz VCO Tuning Sweep — IHP SG13G2
* Sweep VTUNE from 0 to 3.3V, measure oscillation frequency at each point

* PDK HBT Model
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ

* Supply
VCC vcc 0 DC 3.3
VTUNE vtune 0 DC 1.5

* VCO Core
XQVCO1 outp outn vco_tail 0 npn13G2l m=2 Nx=2 selft=0
XQVCO2 outn outp vco_tail 0 npn13G2l m=2 Nx=2 selft=0

* Tail current
ITAIL vco_tail 0 DC 5m

* Tank inductors (27pH for ~77GHz)
L1 vcc outp 27p IC=0
L2 vcc outn 27p IC=0

* Voltage-dependent varactor: C varies with VTUNE
* sg13_hv_svaricap typical: Cmin~50fF at 0V, Cmax~150fF at 3.3V
* Model as VCCS charging a cap (behavioral)
* Simpler: run multiple sims with different fixed cap values
CVAR1 outp 0 15f
CVAR2 outn 0 12f

* Decoupling
CDEC vcc 0 10p

* Asymmetry for startup
.nodeset v(outp)=3.3 v(outn)=3.3 v(vco_tail)=2.4

.options gmin=1e-10 reltol=5e-3 abstol=1e-10 vntol=1e-4
.options itl1=1000 itl2=200 itl4=500
.options method=gear maxord=3 noopiter

.tran 0.2p 1n

.meas tran freq_osc trig v(outp) val=3.3 rise=40 targ v(outp) val=3.3 rise=41
.meas tran vswing pp v(outp) from=0.5n to=1n

.control
let vtune_vals = vector(7)
let freq_results = vector(7)
let swing_results = vector(7)
let idx = 0

foreach vt 0.0 0.5 1.0 1.5 2.0 2.5 3.3
  alter vtune dc = $vt
  * Scale varactor: C = 10fF + 15fF*(vtune/3.3)
  let cval = 10e-15 + 15e-15 * $vt / 3.3
  alter cvar1 = $&cval
  let cval2 = 8e-15 + 12e-15 * $vt / 3.3
  alter cvar2 = $&cval2
  tran 0.2p 1n
  meas tran period trig v(outp) val=3.3 rise=40 targ v(outp) val=3.3 rise=41
  let f = 1/period
  let vtune_vals[idx] = $vt
  let freq_results[idx] = f
  meas tran sw pp v(outp) from=0.5n to=1n
  let swing_results[idx] = sw
  echo "VTUNE=$vt  Freq=$&f  Swing=$&sw"
  let idx = idx + 1
  reset
end

echo ""
echo "=== VCO Tuning Curve ==="
echo "VTUNE(V)  Freq(GHz)  Swing(Vpp)"
let idx = 0
foreach vt 0.0 0.5 1.0 1.5 2.0 2.5 3.3
  let fg = freq_results[idx] / 1e9
  echo "$vt  $&fg  $&swing_results[idx]"
  let idx = idx + 1
end
quit
.endc

.end